US06117885
A. 3,3-Dibromo-2,3-dihydro-2-oxo-1H-indole-4-carboxylic acid, methyl ester
2,3-Dihydro-2-oxo-1H-indole-4-carboxylic acid, methyl ester, (C. A. Grob and 0. Weissbach, Hely. Chim. Acta, vol. 44, p. 1736, 1961) (2 g, 11.4 mmol) was dissolved in t-butylhydroxide (120 mL) containing 0.5 mL of water. Pyridine.hydrogen bromide.bromine (14.6 g, 45.7 mmol) was added and the mixture was stirred at room temperature for 16 hours. The reaction was quenched by the addition of water and the t-butylhydroxide was distilled off. The resulting residue was partitioned between water and ethyl acetate, and the ethyl acetate was dried with magnesium sulfate, filtered and concentrated in vacuo to yield the title compound (3.92 g, 98%).

reactant | 2,3-Dihydro-2-oxo-1H-indole-4-carboxylic acid, methyl ester | O=C1NC=2C=CC=C(C2C1)C(=O)OC | C10H9NO3
reactant | water | 0.5 mL | O | H2O
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 45.7 mmol, 14.6 g | BrBr | Br2
solvent | t-butylhydroxide | 120 mL | C(C)(C)(C)[O-]
solvent | Pyridine | N1=CC=CC=C1 | C5H5N
product | 3,3-Dibromo-2,3-dihydro-2-oxo-1H-indole-4-carboxylic acid, methyl ester | 3.92 g, 98% | BrC1(C(NC=2C=CC=C(C12)C(=O)OC)=O)Br | C10H7Br2NO3
